US08044056B2
4-{2-[6-Amino-8-methoxy-2-(2-methoxyethoxy)purin-9-yl]ethyl}-piperidine-1-carboxylic acid tert-butyl ester
8-Methoxy-2-(2-methoxyethoxy)adenine (3.27 g, 13.7 mmol) was dissolved in DMF (75 ml), and thereto were added potassium carbonate (1.89 g, 13.7 mmol) and 4-[2-(methanesulfonyloxy)ethyl]piperidine-1-carboxylic acid tert-butyl ester (4.21 g, 13.7 mmol), and the mixture was stirred at 60° C. for 2.5 hours. The mixture was cooled to room temperature, and the carbonate salt was removed by filtration, and the filtrate was concentrated. To the residue was added water, and the mixture was extracted three times with chloroform. The resultant was dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column (chloroform/methanol=200/1 to 100/1) to give the subtitle compound (3.62 g, 8.04 mmol) as a white solid. Yield: 60%.

reactant | 8-Methoxy-2-(2-methoxyethoxy)adenine | 13.7 mmol, 3.27 g | COC1=NC2=NC(=NC(=C2N1)N)OCCOC | C9H13N5O3
reactant | potassium carbonate | 13.7 mmol, 1.89 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-[2-(methanesulfonyloxy)ethyl]piperidine-1-carboxylic acid tert-butyl ester | 13.7 mmol, 4.21 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOS(=O)(=O)C | C13H25NO5S
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | 4-{2-[6-Amino-8-methoxy-2-(2-methoxyethoxy)purin-9-yl]ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 8.04 mmol, 3.62 g, Yield: 60% | C(C)(C)(C)OC(=O)N1CCC(CC1)CCN1C2=NC(=NC(=C2N=C1OC)N)OCCOC | C21H34N6O5
